US09216992B2
Benzyl-(6-methyl-3-phenyl-thieno[3,2-c]pyridin-4-yl)-amine
A microwave reaction vessel was charged with 4-chloro-6-methyl-3-phenyl-thieno[3,2-c]pyridine (254 mg, 0.982 mmol), benzylamine (642 μl, 5.886 mmol), triethylamine (137 μl, 0.982), solvated in NMP (3 ml), and set to stir in a Biotage microwave reactor. The reaction was heated at 220° C. for 6 h. The crude reaction was next partitioned between ethyl acetate (25 ml) and distilled water (25 ml). The organic phase was dried (MgSO4) and the solvent removed in vacuo. Purification by flash column chromatography (petroleum spirit 40-60° C.:ethyl acetate, 5:1, Rf 0.5) afforded the title compound as a yellow solid (200.4 mg, 62%).

reactant | 4-chloro-6-methyl-3-phenyl-thieno[3,2-c]pyridine | 0.982 mmol, 254 mg | ClC1=NC(=CC2=C1C(=CS2)C2=CC=CC=C2)C | C14H10ClNS
reactant | benzylamine | 5.886 mmol, 642 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 137 μl | C(C)N(CC)CC | C6H15N
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
product | Benzyl-(6-methyl-3-phenyl-thieno[3,2-c]pyridin-4-yl)-amine | 200.4 mg, 62% | C(C1=CC=CC=C1)NC1=NC(=CC2=C1C(=CS2)C2=CC=CC=C2)C | C21H18N2S
